US04897420
trans-7-(4-Hydroxycyclohexyl)heptanoic acid (6.5 g) and p-toluenesulfonic acid (15 mg) are stirred in acetic anhydride (32.5 ml) at 60°-70° C. for 1.5 hours. The excess acetic anhydride is distilled off under reduced pressure, followed by addition of water (90 ml), and the mixture is stirred for 3 days. The resulting crystalline precipitate is collected by filtration and recrystallized from ethyl acetate-hexane to give 6.5 g of trans-7-(4-acetoxycyclohexyl)heptanoic acid as colorless needless, m.p. 66°-68° C.

reactant | trans-7-(4-Hydroxycyclohexyl)heptanoic acid | 6.5 g | O[C@@H]1CC[C@H](CC1)CCCCCCC(=O)O | C13H24O3
reactant | p-toluenesulfonic acid | 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | 32.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | trans-7-(4-acetoxycyclohexyl)heptanoic acid | 6.5 g | C(C)(=O)O[C@@H]1CC[C@H](CC1)CCCCCCC(=O)O | C15H26O4
